US07176216B2
To a suspension of (7-bromo-3-nitropyrazolo[1,5-a]pyridin-2-yl)methyl methyl ether (540 mg) in a mixed solution of ethanol (10 mL), water (5 mL) and acetic acid (1 mL) was added zinc powder (540 mg), and the reaction mixture was heated and stirred for 30 minutes at 60° C. After filtering off insoluble residue, water was added to the filtrate, extraction was performed with ethyl acetate and the organic extract was washed with saturated aqueous sodium bicarbonate and brine. The obtained organic extract was dried over anhydrous magnesium sulfate and filtered, the solvent was evaporated under reduced pressure, the residue was purified by silica gel column chromatography and 7-bromo-2-(methoxymethyl)pyrazolo[1,5-a]pyridine-3-amine (371 mg) was obtained as a brown oil from the n-hexane:ethyl acetate (2:1) fraction.

reactant | (7-bromo-3-nitropyrazolo[1,5-a]pyridin-2-yl)methyl methyl ether | 540 mg | COCC1=NN2C(C=CC=C2Br)=C1[N+](=O)[O-] | C9H8BrN3O3
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | water | 5 mL | O | H2O
catalyst | zinc | 540 mg | [Zn] | Zn
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 7-bromo-2-(methoxymethyl)pyrazolo[1,5-a]pyridine-3-amine | 371 mg | BrC1=CC=CC=2N1N=C(C2N)COC | C9H10BrN3O
